US06825170B2
3-(2-pyridinyl)-5-isoxazolecarboxaldehyde
The title compound is prepared by a procedure analogous to Reference Example 300 by substituting 3-(2-pyridinyl)-5-isoxazolemethanol (prepared as described in J. Org. Chem. 2000, 65, 2225) for the 3-[4-(2-pyrimidinyl)phenyl]-2-propyn-1-ol of Reference Example 300. MS 175 (M+H)+.

reactant | 3-(2-pyridinyl)-5-isoxazolemethanol | N1=C(C=CC=C1)C1=NOC(=C1)CO | C9H8N2O2
reactant | 3-[4-(2-pyrimidinyl)phenyl]-2-propyn-1-ol | N1=C(N=CC=C1)C1=CC=C(C=C1)C#CCO | C13H10N2O
product | 3-(2-pyridinyl)-5-isoxazolecarboxaldehyde | N1=C(C=CC=C1)C1=NOC(=C1)C=O | C9H6N2O2
